US07994179B2
Intermediate 1-5: Ethyl 6-hydroxy-3,5-dimethylpyrazine-2-carboxylate
A solution of 2M Hydrochloric acid in 1,4-dioxane (1177 mL, 4709.97 mmol) was added to Intermediate 1-6 (745 g, 2354.99 mmol) and stirred at room temperature for 15 minutes then warmed to 40° C. for a further 40 minutes. Pyridine (6500 mL) was then slowly added and then the reaction was heated to 80° C. for 2 hours in the presence of air. The reaction was then allowed to cool to ambient temperature and evaporated to dryness to afford a viscous oil. This was suspended in DCM (2.5 L) and washed water (1.5 L). The DCM was then dried over MgSO4, filtered and concentrated to afford an orange semi-solid, which was triturated with 1:1 EtOAc/iso-hexane (250 mL) to afford ethyl 6-hydroxy-3,5-dimethyl-1,4-dihydropyrazine-2-carboxylate (127 g, 27.1%) as a cream solid. The mother liquors were then purified by flash silica chromatography (gradient from 20% ethyl acetate/iso-hexane to 80% ethyl acetate/iso-hexane). Fractions containing the desired product were concentrated and the residue was triturated with a small volume of 1:1 EtOAc/iso-hexane to afford the title compound (9.00 g, 1.948%). Manganese dioxide (150 g) was added to a suspension of ethyl 6-hydroxy-3,5-dimethyl-4,5-dihydropyrazine-2-carboxylate (121 g, 610.44 mmol) in DCM (1.8 L) at ambient temperature giving rise to a 2° C. exotherm. The reaction was stirred for 10 minutes then warmed to 35° C. for 1 hour. The reaction was incomplete so an additional 115 g of Manganese dioxide was added and the reaction stirred for 1 hour at 35° C. then stirred to cool to ambient temperature. The reaction was filtered through a short bed of silica and washed through with 2 L of 1:1 EtOAc/iso-hexane and finally 2×2 L EtOAc. The fractions were then combined and reduce in-vacuo to give an orange solid, which was slurried in 300 mL of 1:1 EtOAc/iso-hexane, filtered and washed with iso-hexane to afford the title compound (87 g, 72.6%) as an orange solid.

reactant | ethyl 6-hydroxy-3,5-dimethyl-4,5-dihydropyrazine-2-carboxylate | 610.44 mmol, 121 g | OC=1C(NC(=C(N1)C(=O)OCC)C)C | C9H14N2O3
solvent | DCM | 1.8 L | C(Cl)Cl | CH2Cl2
solvent | EtOAc iso-hexane | 300 mL | CCOC(=O)C.CCCC(C)C
catalyst | Manganese dioxide | 150 g | [O-2].[O-2].[Mn+4]
catalyst | Manganese dioxide | 115 g | [O-2].[O-2].[Mn+4]
product | Ethyl 6-hydroxy-3,5-dimethylpyrazine-2-carboxylate | 87 g, 72.6% | OC1=C(N=C(C(=N1)C(=O)OCC)C)C | C9H12N2O3
